US05116979
3 g of dihydrocaffeic acid and 1.43 g of morpholine were dissolved in 20 ml of DMF (dimethylformamide), and 202 mg of DMAP (dimethylaminopyridine) and 3.4 g of DCC (dicyclohexylcarbodiimide) were further added thereto under cooling, followed by allowing the mixture to stand overnight. The deposited dicyclohexyl urea was removed therefrom by filtration, and the resultant filtrate was then distilled off under reduced pressure. Afterward, the residue was washed with ether in order to obtain 3.8 g of N-[3-(3,4-dihydroxyphenyl)propionyl]morpholine in the state of light yellow crystals having a melting point of from 211° to 213° C.

reactant | dihydrocaffeic acid | 3 g | C(CCC1=CC(O)=C(O)C=C1)(=O)O | C9H10O4
reactant | morpholine | 1.43 g | N1CCOCC1 | C4H9NO
reactant | DMAP | 202 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | DCC | 3.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DMF | 20 ml | CN(C=O)C | C3H7NO
product | N-[3-(3,4-dihydroxyphenyl)propionyl]morpholine | 3.8 g | OC=1C=C(C=CC1O)CCC(=O)N1CCOCC1 | C13H17NO4
